US07985755B2
5-[1-(3-Methylbenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine (Example-008).
The benzylamine was obtained by reacting 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (75 mg; 0.27 mmol) and 3-methylbenzyl bromide (60 mg; 0.32 mmol) via Method BB to yield 86 mg. (84% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.34 (t, J=8.0 Hz, 1H), 7.2 (m, 3H), 7.07 (m, 3H), 6.76 (d, J=8.4 Hz, 1H), 6.52 (d, J=8.0 Hz, 1H), 5.94 (br s, 2H), 3.98 (d, J=6.0 Hz, 2H), 3.42 (s, 2H), 2.83 (br d, J=11.2 Hz, 2H), 2.29 (s, 3H), 1.8 (m, 5H), 1.36 (m, 2H). MS m/z (ESI) 378 (M+H)+.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.27 mmol, 75 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | 3-methylbenzyl bromide | 0.32 mmol, 60 mg | CC=1C=C(CBr)C=CC1 | C8H9Br
product | 5-[1-(3-Methylbenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine | 84% yield | CC=1C=C(CN2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C=CC1 | C22H27N5O
